US06194426B1
Ethyl N-(2-chloronicotinoyl)thiazolidine-4-carboxylate is prepared as described in Example 5, from 23 g of ethyl L-thiazolidine-4-carboxylate hydrochloride and 20.4 g of 2-chloronicotinoyl chloride. 27 g of ethyl N-(2-chloronicotinoyl)thiazolidine-4-carboxylate are thus obtained in the form of a yellow oil, employed crude.

reactant | ethyl L-thiazolidine-4-carboxylate hydrochloride | 23 g | CCOC(=O)C1CSCN1.Cl
reactant | 2-chloronicotinoyl chloride | 20.4 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
product | ethyl N-(2-chloronicotinoyl)thiazolidine-4-carboxylate | 27 g | ClC1=C(C(=O)N2CSCC2C(=O)OCC)C=CC=N1 | C12H13ClN2O3S
